### PR TITLE
[Merged by Bors] - feat(Matrix): extracting entries as a linear map

### PR DESCRIPTION
**Pull request by b-mehta**
Strictly speaking, something like this was available as `LinearMap.proj`, but actually using it in practice is awkward as unification struggles (see line 1227 in this PR). 

I'm happy to take name suggestions, as well as ideas for other generalities.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matrix/Basic.lean [hunk 1]
```diff
@@ -1211,6 +1212,63 @@ end Algebra
...
+
+variable [AddZeroClass α]
+
+variable (R α) in
+/--
+Extracting entries from a matrix as a monoid homomorphism. Note this cannot be upgraded to a ring
+homomorphism, as it does not respect multiplication.
+-/
+@[simps]
+def apply₂ (i : m) (j : n) : Matrix m n α →+ α where
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basic.lean:1227]: Maybe `Matrix.elemAddMonoidHom` and `Matrix.elimLinearMap` as the names?

Comment (b-mehta) [reply Mathlib/Data/Matrix/Basic.lean:1245]: I don't mind `elem`, but the pattern for `mapMatrix` is to prefix with the structure, eg `LinearMap.mapMatrix` and `AddMonoidHom.mapMatrix`, so I'd prefer to stick with that.

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basic.lean:1245]: Those are named that way for `f.mapMatrix M` dot notation, since `M.mapRingHom f` doesn't work with morphisms and is morally the wrong order for function application. I don't think that applies here.

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basic.lean:1245]: Either way, I think this should include the word `Matrix` in the name somewhere, namespace or otherwise.

Comment (b-mehta) [reply Mathlib/Data/Matrix/Basic.lean:1245]: Ah fair point - I didn't consider the dot notation. Will amend.

Comment (b-mehta) [reply Mathlib/Data/Matrix/Basic.lean]: done

File: Mathlib/Data/Matrix/Basic.lean [hunk 2]
```diff
@@ -1209,6 +1210,87 @@ def diagonalAlgHom : (n → α) →ₐ[R] Matrix n n α :=
...
+@[simps]
+def elemAddMonoidHom (i : m) (j : n) : Matrix m n α →+ α where
+  toFun M := M i j
+  map_add' _ _ := rfl
+  map_zero' := rfl
+
+-- The type ascription on the RHS is necessary for unification to succeed on the composition.
+lemma elemAddMonoidHom_eq {i : m} {j : n} :
+    elemAddMonoidHom α i j =
+      (Pi.evalAddMonoidHom _ j).comp (Pi.evalAddMonoidHom _ i : _ →+ (n → α)) :=
```
Comment (j-loreaux) [inline Mathlib/Data/Matrix/Basic.lean:1249]: This naming is fine also (i.e., not specifying the RHS), but let's be consistent throughout for parallelism.

File: Mathlib/Data/Matrix/Basic.lean [hunk 3]
```diff
@@ -1209,6 +1210,87 @@ def diagonalAlgHom : (n → α) →ₐ[R] Matrix n n α :=
...
+
+@[simp] lemma proj_comp_diagLinearMap (i : m) :
+    LinearMap.proj i ∘ₗ diagLinearMap m R α = elemLinearMap R α i i := by
+  simp [LinearMap.ext_iff]
+
+@[simp] lemma elemLinearMap_toAddMonoidHom {i : m} {j : n} :
+    (elemLinearMap R α i j).toAddMonoidHom = elemAddMonoidHom α i j := rfl
+
+@[simp] lemma elemLinearMap_toAddHom {i : m} {j : n} :
+    (elemLinearMap R α i j).toAddHom = elemAddHom α i j := rfl
```
Comment (j-loreaux) [inline Mathlib/Data/Matrix/Basic.lean:1290]: Is there a reason to have these as opposed to the versions utilizing the hom class coercions?

File: Mathlib/Data/Matrix/Basic.lean [hunk 4]
```diff
@@ -1209,6 +1210,87 @@ def diagonalAlgHom : (n → α) →ₐ[R] Matrix n n α :=
...
+    elemAddMonoidHom α i j =
+      (Pi.evalAddMonoidHom _ j).comp (Pi.evalAddMonoidHom _ i : _ →+ (n → α)) :=
+  rfl
+
+@[simp] lemma evalAddMonoidHom_comp_diagAddMonoidHom (i : m) :
+    (Pi.evalAddMonoidHom _ i).comp (diagAddMonoidHom m α) = elemAddMonoidHom α i i := by
+  simp [AddMonoidHom.ext_iff]
+
+@[simp] lemma elemAddMonoidHom_toAddHom {i : m} {j : n} :
+  (elemAddMonoidHom α i j).toAddHom = Matrix.elemAddHom α i j := rfl
```
Comment (j-loreaux) [inline Mathlib/Data/Matrix/Basic.lean:1257]: Same here

File: Mathlib/Data/Matrix/Basic.lean (hunk 3 above)
Comment (b-mehta) [reply Mathlib/Data/Matrix/Basic.lean:1290]: Oops, the first one gets elaborated to the hom class coercions but the second doesn't, that's a mistake on my part. Will amend.

File: Mathlib/Data/Matrix/Basic.lean [hunk 5]
```diff
@@ -1209,6 +1210,87 @@ def diagonalAlgHom : (n → α) →ₐ[R] Matrix n n α :=
...
+variable (R α) in
+/-- Extracting entries from a matrix as an additive homomorphism.  -/
+@[simps]
+def elemAddHom (i : m) (j : n) : AddHom (Matrix m n α) α where
+  toFun M := M i j
+  map_add' _ _ := rfl
+
+-- The type ascription on the RHS is necessary for unification to succeed on the composition.
+lemma elemAddHom_eq_proj {i : m} {j : n} :
+    elemAddHom α i j = (Pi.evalAddHom _ j).comp (Pi.evalAddHom _ i : AddHom _ (n → α)) :=
```
[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/Data/Matrix/Basic.lean:1226]: Actually my name was for a worse reason than you guessed: it's because of a lazy copy-paste. Thanks for catching this!

File: Mathlib/Data/Matrix/Basic.lean (hunk 3 above)
Comment (b-mehta) [reply Mathlib/Data/Matrix/Basic.lean:1290]: Oh, actually they are all utilizing the hom class coercions already. Could you clarify what you meant then?

File: Mathlib/Data/Matrix/Basic.lean [hunk 6]
```diff
@@ -1209,6 +1210,87 @@ def diagonalAlgHom : (n → α) →ₐ[R] Matrix n n α :=
...
 end Algebra
 
+section AddHom
+
+variable [Add α]
+
+variable (R α) in
+/-- Extracting entries from a matrix as an additive homomorphism.  -/
+@[simps]
+def elemAddHom (i : m) (j : n) : AddHom (Matrix m n α) α where
```
[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/Data/Matrix/Basic.lean:1220]: I'm happy with `entry` or `elem`, but `elem` was @eric-wieser's suggestion, so let's ask him too.

File: Mathlib/Data/Matrix/Basic.lean (hunk 3 above)
Comment (b-mehta) [reply Mathlib/Data/Matrix/Basic.lean]: I changed the spelling for clarity.

File: Mathlib/Data/Matrix/Basic.lean (hunk 6 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basic.lean:1220]: I'm happy with either.

File: Mathlib/Data/Matrix/Basic.lean [hunk 7]
```diff
@@ -1209,6 +1210,87 @@ def diagonalAlgHom : (n → α) →ₐ[R] Matrix n n α :=
...
+  toFun M := M i j
+  map_add' _ _ := rfl
+
+-- The type ascription on the RHS is necessary for unification to succeed on the composition.
+lemma elemAddHom_eq_comp {i : m} {j : n} :
+    elemAddHom α i j = (Pi.evalAddHom _ j).comp (Pi.evalAddHom _ i : AddHom _ (n → α)) :=
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basic.lean:1226]: Arguably you should launder through `of` here to avoid needing the type ascription.

Comment (b-mehta) [reply Mathlib/Data/Matrix/Basic.lean]: I'm not quite sure I follow - `of` is for building matrices, but both sides here are maps out of a matrix space. I'm happy to use `of`, but I don't see how it fits here.

File: Mathlib/Data/Matrix/Basic.lean (hunk 6 above)
[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/Data/Matrix/Basic.lean]: changed.

File: Mathlib/Data/Matrix/Basic.lean (hunk 7 above)
Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basic.lean]: You could add an `ofLinearEquiv` as a linear version of `of`.

Comment (b-mehta) [reply Mathlib/Data/Matrix/Basic.lean]: Sounds potentially helpful but a can of worms I'd rather not open here (AddEquiv; LinearEquiv; RingEquiv; AlgebraEquiv...). Would you be happy with a todo instead?

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basic.lean]: I think it's fine to just add the bundling you need; the simp-normal form would remain `of`

Comment (b-mehta) [reply Mathlib/Data/Matrix/Basic.lean]: The add monoid hom one end up looking like this
```
lemma entryAddMonoidHom_eq_comp {i : m} {j : n} :
    entryAddMonoidHom α i j =
      ((Pi.evalAddMonoidHom _ j).comp (Pi.evalAddMonoidHom _ i)).comp
        (AddMonoidHomClass.toAddMonoidHom ofAddEquiv.symm) :=
  rfl
```
Are you sure this is a good idea?

File: Mathlib/Data/Matrix/Basic.lean (hunk 3 above)
Comment (j-loreaux) [reply Mathlib/Data/Matrix/Basic.lean]: I don't understand how these could be the hom class coercions, because they are both structure projections? What makes you say that `LinearMap.toAddMonoidHom` is a hom class coercion?

Comment (j-loreaux) [reply Mathlib/Data/Matrix/Basic.lean]: Of course the updated spelling makes it moot, but I just want this point clarified for both our sakes.

**Comment by j-loreaux** [comment]
I'm content with this now. @eric-wieser I'll leave it to you.

bors d=eric-wieser

File: Mathlib/Data/Matrix/Basic.lean (hunk 7 above)
Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basic.lean]: > You could add an `ofLinearEquiv` as a linear version of `of`.

I needed this anyway in #18097.

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basic.lean]: > Are you sure this is a good idea?

Yes, because it means if you apply this lemma then use `simp`, the `of` reappears where it should.

Comment (b-mehta) [reply Mathlib/Data/Matrix/Basic.lean]: Okay, I added it in the most recent commit (from two weeks ago)

**Comment by eric-wieser** [comment]
bors merge
